US07608639B2
3-{4-[3-Chloro-5-(2-pyrimidin-5-yl-4-trifluoromethyl-phenoxy)-phenoxy]-2-methyl-phenyl}-propionic acid
The title compound is prepared according to Example 89 by using pyrimidine-5-boronic acid and 3-{4-[3-(2-bromo-4-trifluoromethyl-phenoxy)-5-chloro-phenoxy]-2-methyl-phenyl}-propionic acid ethyl ester to afford about 31 mg (22%). 1H NMR (400 MHz, CDCl3); MS (ES+) m/z mass calcd for C27H20O4F3N2Cl 528, found 529 (M+1, 100%).

reactant | pyrimidine-5-boronic acid | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | 3-{4-[3-(2-bromo-4-trifluoromethyl-phenoxy)-5-chloro-phenoxy]-2-methyl-phenyl}-propionic acid ethyl ester | C(C)OC(CCC1=C(C=C(C=C1)OC1=CC(=CC(=C1)Cl)OC1=C(C=C(C=C1)C(F)(F)F)Br)C)=O | C25H21BrClF3O4
product | 3-{4-[3-Chloro-5-(2-pyrimidin-5-yl-4-trifluoromethyl-phenoxy)-phenoxy]-2-methyl-phenyl}-propionic acid | ClC=1C=C(OC2=CC(=C(C=C2)CCC(=O)O)C)C=C(C1)OC1=C(C=C(C=C1)C(F)(F)F)C=1C=NC=NC1 | C27H20ClF3N2O4
